US08426441B2
A mixture of 6-chloro-imidazo[1,2-b]pyridazin-8-ylamine (0.048 g, 0.29 mmol), 4-tert-butyl-N-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide (0.169 g, 0.444 mmol), potassium phosphate (0.120 g, 0.567 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.024 g, 0.058 mmol), palladium acetate (0.007 g, 0.03 mmol), 0.5 mL of n-butanol and 0.2 mL of water in a sealed tube was stirred at 100° C. for 2 d. The resulting cloudy orange mixture was partitioned between 5 mL of ethyl acetate and 5 mL of water, and the aqueous layer was extracted with 5 mL of ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated to an orange oil. Column chromatography (60->100% EtOAc/hexanes) afforded 0.026 g (23%) of N-[3-(8-amino-imidazo[1,2-b]pyridazin-6-yl)-2-methyl-phenyl]-4-tert-butyl-benzamide as a yellow solid.

reactant | 6-chloro-imidazo[1,2-b]pyridazin-8-ylamine | 0.29 mmol, 0.048 g | ClC=1C=C(C=2N(N1)C=CN2)N | C6H5ClN4
reactant | 4-tert-butyl-N-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide | 0.444 mmol, 0.169 g | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)B2OC(C(O2)(C)C)(C)C)C)C=C1 | C24H32BNO3
reactant | potassium phosphate | 0.567 mmol, 0.120 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.058 mmol, 0.024 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | palladium acetate | 0.03 mmol, 0.007 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.2 mL | O | H2O
solvent | n-butanol | 0.5 mL | C(CCC)O | C4H10O
product | N-[3-(8-amino-imidazo[1,2-b]pyridazin-6-yl)-2-methyl-phenyl]-4-tert-butyl-benzamide | 0.026 g, 23% | NC=1C=2N(N=C(C1)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)C)C=CN2 | C24H25N5O
